US05008426
17. 6-(4-Chlorobenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
35 g (0.2 mol) of 4-chlorobenzoyl chloride were warmed to 90° to 100° C. under a nitrogen atmosphere. 46 g of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were added dropwise while stirring. The internal temperature was then increased gradually to 130° C. When the reaction was complete, the mixture was digested with 50 ml of toluene. 60 g (85% of theory) of the abovementioned substance of melting point 125° to 131° C. were obtained.

reactant | 4-chlorobenzoyl chloride | 0.2 mol, 35 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 46 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(4-Chlorobenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | ClC1=CC=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C=C1 | C19H12ClO3P
